datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([C:9]([H:24])([H:25])[H:26])[C:8]1([H:22])[H:23])[H:12])([H:10])[H:11],69.2034
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][O:36][H:37]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:11])([H:12])[H:13].[H:14][O:35][O:36][H:37],58.19944
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:11]([C:10]([H:13])([H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16])[H:6],14.6022
[C:0](=[C:1]([O:2][O:3])[H:6])([H:4])[H:5].[C:7]([C:8]([H:12])([H:13])[H:14])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([O:2][O:3][H:9])[H:6])([H:4])[H:5].[C:7]([C:8]([H:12])([H:13])[H:14])([H:10])[H:11],71.9648
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([S:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7]([C:6]([H:9])([H:10])[H:11])([S:8][H:13])[H:12],82.383
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([C:7]([H:20])([H:21])[H:22])[C:6]1([H:18])[H:19],26.7776
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:15]([C:14]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],16.4431
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[O:5][O:6][H:17])([H:9])[H:10])([H:7])[H:8].[O:18][O:19]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[O:5][O:6][H:17])([H:9])[H:10])([H:7])([H:8])[O:18][O:19],0.8313608
[C:0]([C:1]([C:2]([O:3][O:4])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:14])[H:13])([H:9])([H:10])[H:11].[O:3][O:4][H:12],125.030472
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C:6](=[C:7]([H:21])[H:22])[H:20])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C:6]1([C:7]([H:21])[H:22])[H:20],17.9912
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:13])[C:20]([C:19]([H:23])([H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:12])([H:9])([H:10])[H:11],21.1292
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22],43.932
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[c:17]1[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]1[H:27]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[c:17]1[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]1[H:27])[H:9])([H:7])[H:8],6.9036
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16](#[C:17][C:18]([C:19]([H:22])([H:23])[H:24])[C:20]([H:25])([H:26])[H:27])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:18]([C:17]#[C:16][H:21])([C:19]([H:22])([H:23])[H:24])[C:20]([H:25])([H:26])[H:27])[H:8],29.8738
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[H:8]>>[C:0]([O:1][C:2](=[O:3])[H:7])([H:5])[H:6].[H:4][H:8],28.267104
